US08217069B2
To a suspension of 5-chloro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-yl-sulfonyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)phenol (0.26 g) and potassium carbonate (0.11 g) in N,N-dimethylformamide (3 mL) was added ethyl bromoacetate (0.078 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate, and the resulting mixture was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=9/1−1/9) to give ethyl 2-[5-chloro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-yl-sulfonyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)phenoxy]acetate (0.29 g). To this material were added tetrahydrofuran (10 mL), methanol (5 mL), water (5 mL) and lithium hydroxide monohydrate (0.21 g), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in tetrahydrofuran (5 mL). To the solution was added 1,1′-carbonyldiimidazole (0.16 g), and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added methylamine (40% methanol solution, 2.5 mL), and the mixture was stirred at room temperature for 5 hours, and then stirred at 50° C. for 1 hour. The reaction mixture was poured into 2 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−ethyl acetate) to give the title compound (0.14 g).

reactant | 5-chloro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-yl-sulfonyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)phenol | 0.26 g | ClC=1C(=CC(=C(C1)O)S(=O)(=O)N1CCCCC2=C1C=CC=C2)N2C(C1=CC=CC=C1C2=O)=O | C24H19ClN2O5S
reactant | potassium carbonate | 0.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.078 mL | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-[5-chloro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-yl-sulfonyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)phenoxy]acetate | 0.29 g | ClC=1C(=CC(=C(OCC(=O)OCC)C1)S(=O)(=O)N1CCCCC2=C1C=CC=C2)N2C(C1=CC=CC=C1C2=O)=O | C28H25ClN2O7S
